US09079916B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(3-(N,N-dimethylsulfamoyl)phenyl)-6-methylpyridin-3-yl)cyclopropanecarboxamide was prepared from 3-(N,N-dimethylsulfamoyl)phenylboronic acid and 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide.

reactant | 3-(N,N-dimethylsulfamoyl)phenylboronic acid | CN(S(=O)(=O)C=1C=C(C=CC1)B(O)O)C | C8H12BNO4S
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)Br)C | C17H15BrN2O3
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=CC=C2)C | C23H20N2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(5-(3-(N,N-dimethylsulfamoyl)phenyl)-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC(=CC=C2)S(N(C)C)(=O)=O)C | C25H25N3O5S
